US07476399B2
2-Methyl-2H-pyrazole-3-carboxylic acid 2,4-dimethoxy-benzylamide
Prepared in a similar manner to example 4 using 2-methyl-2H-pyrazole-3-carboxylic acid and 2,4-dimethoxy-benzylamine. MS (M+H, 276.2).

reactant | 2-methyl-2H-pyrazole-3-carboxylic acid | CN1N=CC=C1C(=O)O | C5H6N2O2
reactant | 2,4-dimethoxy-benzylamine | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
product | 2-Methyl-2H-pyrazole-3-carboxylic acid 2,4-dimethoxy-benzylamide | COC1=C(CNC(=O)C=2N(N=CC2)C)C=CC(=C1)OC | C14H17N3O3
